US07923450B2
a) Ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate
Ethyl 2-oxo-cyclohexanecarboxylate (38 mg, 0.22 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (49 mg) as a yellow oil which was used directly in the next step. MS ISP (m/e): 226.1 [(M+H)+].

reactant | Ethyl 2-oxo-cyclohexanecarboxylate | 0.22 mmol, 38 mg | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | Ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate | 49 mg | CN(C=C1C(C(CCC1)C(=O)OCC)=O)C | C12H19NO3
